US04504479
4-[5-(1-Imidazolylmethyl)-thien-2-yl]-4-oxo-butyric acid
A mixture of 4.17 g of 4-[5-(1-imidazolylmethyl)-thien-2-yl]-4-oxo-butyric acid methyl ester, 0.8 g of sodium hydroxide and 20 ml of methanol is stirred at room temperature for 8 hours. The solvent is then stripped off and the residue is taken up in water. The solution is extracted several times with chloroform, and the chloroform phase is discarded. The aqueous solution is brought to about pH 7 with dilute hydrochloric acid and is concentrated to dryness. The residue is purified by column chromatography (silica gel/CHCl3 /methanol).

reactant | 4-[5-(1-imidazolylmethyl)-thien-2-yl]-4-oxo-butyric acid methyl ester | 4.17 g | COC(CCC(=O)C=1SC(=CC1)CC=1NC=CN1)=O | C13H14N2O3S
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 4-[5-(1-Imidazolylmethyl)-thien-2-yl]-4-oxo-butyric acid | N1C(=NC=C1)CC1=CC=C(S1)C(CCC(=O)O)=O | C12H12N2O3S
